* Z:\celera\projects\Simplis\playrich\ForceExternals\ForceExternals0\301E\verification\sim_DUT4.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map selfreset 50
.node_map VSIN 44
.node_map VSQR 42
.node_map ISQR 48
.node_map ISIN 46
.node_map BS$0 31
.node_map BS$1 32
.node_map BS$2 33
.node_map BS$3 34
.node_map BSO$0 35
.node_map BSO$1 36
.node_map COMPOUT 40
.node_map BSO$2 37
.node_map BSO$3 38
.node_map VTRI 43
.node_map ITRI 45
.node_map VPWL 39
.node_map IPWL 47
.node_map VPUL 41
.node_map IPUL 49
.node_map GND 51
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 500u 0

.globalvar REF=0.9
.globalvar tdext_khz=1000
.globalvar VIN=5
.globalvar celera_i2c_frequency_KHz=1000

X$DUT3 40 39 42 46 45 43 31 32 33 34 35 36 37 38 DUT3
X$EXTERNALDUT3 51 41 44 48 46 45 49 47 43 40 35 36 37 38 42 EXTERNALDUT3

.PRINT V(#VPWL)
.GRAPH :#VPWL curveLabel= VPWL nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#VSIN)
.GRAPH :#VSIN curveLabel= VSIN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#selfreset)
.GRAPH :#selfreset curveLabel= selfreset nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#VTRI)
.GRAPH :#VTRI curveLabel= VTRI nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playrich\ForceExternals\ForceExternals0\301E\design\DUT3.sxcmp
.subckt DUT3 50 45 47 49 48 46 51 53 55 57 52 54 56 58
*#hierarchy
.node_map VSQR 47
.node_map ISIN 49
.node_map BUS2$0 43
.node_map BUS2$1 44
.node_map BS$0 51
.node_map BS$1 53
.node_map BS$2 55
.node_map BS$3 57
.node_map BSO$0 52
.node_map BSO$1 54
.node_map BSO$2 56
.node_map COMPOUT 50
.node_map BSO$3 58
.node_map VTRI 46
.node_map ITRI 48
.node_map VPWL 45
X$comparator1 34 45 45 31 48 30 49 32 33 29 comparatornoctlpins vars: comparator_model='comparator' comparator_hysteresismode='fixed' comparator_edge='falling' comparator_speed='fast' comparator_type='p' comparator_deglitch='no' comparator_lowiq='no' comparator_datasheet_name='text' comparator_datasheet_description='text' bgcomp_accuracy='no' bgcomp_outputanalog='supply' bgcomp_note1='Usage' bgcomp_outputdigital='no' bgcomp_trim_name='text' bgcomp_trim_description='text' bgcomp_enable='yes' comparator_dft='no' comparatorsupply_reference='ground' comparatorsupply_threshold='50' comparatorsupply_edge='falling' comparatorsupply_output='analog' comparatorsupply_enable='analog' comparator_hysteresis=20 comparator_lowiqpor=0 bgcomp_threshold=1.2 bgcomp_maxcelpos=6 bgcomp_maxvin=6 comparator_vmax=6
X$delay1 31 50 45 43 44 28 delayclock vars: delay_type='clock' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='bsclock' delayclock_datasheetdescription='bsclock' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=50 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=1 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1k
X$pinprobe13 48 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe5 45 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe6 47 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$U1 52 51 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U13 49 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U16 47 27 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U2 54 53 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U25 45 25 46 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U26 25 26 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U3 56 55 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U4 58 57 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$UPAvpwl 45 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvpwl' dftprobe_description='vpwl' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAvsqr 47 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvsqr' dftprobe_description='vsqr' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDclock 26 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDclock' dftprobe_description='clock' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDokcomp 34 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDokcomp' dftprobe_description='ok_comparator' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDsquare 27 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDsquare' dftprobe_description='clock' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends DUT3

** From Z:\celera\projects\Simplis\playrich\ForceExternals\ForceExternals0\301E\external\EXTERNALDUT3.sxcmp
.subckt EXTERNALDUT3 74 70 73 78 81 80 79 76 68 82 83 84 85 86 72
*#hierarchy
.node_map IND 71
.node_map VSIN 73
.node_map VSQR 72
.node_map ISIN 81
.node_map ISQR 78
.node_map CAP 69
.node_map BSO$0 83
.node_map BSO$1 84
.node_map BSO$2 85
.node_map COMPOUT 82
.node_map BSO$3 86
.node_map RES 75
.node_map VTRI 68
.node_map ITRI 80
.node_map DIODE 77
.node_map IPWL 76
.node_map VPUL 70
.node_map IPUL 79
.node_map GND 74
C1 69 74 100u IC=0
X$D1 77 74 DFLS130L vars: Package='PowerDI123' Partnumber='DFLS130L-7'
L1 71 74 1u
X$pinprobe1 72 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe10 76 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe11 78 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe12 79 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe13 80 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe7 70 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe8 68 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe9 73 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
R1 75 74 50k
R2 70 74 1k
R3 73 74 1k
R4 82 74 100k
R5 76 75 1
R6 78 77 1
R7 79 71 1
R8 80 69 1
R9 81 74 1
X$U1 0 72 68 NTMFS4C022N vars: Package='SO-8FL' Partnumber='NTMFS4C022N'
X$U13 81 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U2 74 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$UPAcap 69 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAcap' dftprobe_description='cap' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAcompout 82 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAcompout' dftprobe_description='compout' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAdiode 77 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAdiode' dftprobe_description='diode' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAind 71 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAind' dftprobe_description='ind' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAipul 79 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAipul' dftprobe_description='ipul' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAipwl 76 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAipwl' dftprobe_description='ipwl' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAisin 81 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAisin' dftprobe_description='isin' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAisqr 78 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAisqr' dftprobe_description='isqr' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAitri 80 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAitri' dftprobe_description='itri' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAres 75 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAres' dftprobe_description='res' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAvpul 70 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvpul' dftprobe_description='vpul' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAvsin 73 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvsin' dftprobe_description='sin' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAvtri 68 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvtri' dftprobe_description='vtri' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDbs0 83 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDbs0' dftprobe_description='Datamap0' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDbs1 84 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDbs1' dftprobe_description='Datamap1' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDbs2 85 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDbs2' dftprobe_description='Datamap2' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDbs3 86 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDbs3' dftprobe_description='Datamap3' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends EXTERNALDUT3

** From Z:\celera\projects\Simplis\playrich\ForceExternals\ForceExternals0\301E\force\FORCEDUT4.sxcmp


.end
