* Z:\celera\projects\Simplis\playbrian\trials\verification\sim_FETcurrentSENSE.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map OUT 18
.node_map SENSE 22
.node_map REPLICA 20
.node_map HV 17
.node_map HVREF 19
.node_map RTN 21
.node_map GND 24
.node_map EN 23
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000

X$FETcurrentSENSE 18 17 19 20 22 23 21 FETcurrentSENSE

X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playbrian\trials\design\FETcurrentSENSE.sxcmp
.subckt FETcurrentSENSE 26 27 28 29 30 31 32
*#hierarchy
.node_map OUT 26
.node_map SENSE 30
.node_map REPLICA 29
.node_map HV 27
.node_map HVREF 28
.node_map RTN 32
.node_map EN 31
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={TRIG_GATE} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=10f CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 500u 0

.globalvar VIN = 5.0
.globalvar HV=10
.globalvar REF = 1.0
.globalvar TEMP=25
.globalvar tdext_khz=10
.globalvar CAPREF=1.1

.PRINT I(X$U1#HVREF)
.GRAPH U1#HVREF curveLabel="I(U1-HVREF)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(X$U1#SENSE)
.GRAPH U1#SENSE curveLabel="I(U1-SENSE)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(X$U1#REPLICA)
.GRAPH U1#REPLICA curveLabel="I(U1-REPLICA)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(X$U1#CELNEG)
.GRAPH U1#CELNEG curveLabel="I(U1-CELNEG)" nowarn=true complete=true analysis=tran|pop disabled=false 
X$U1 27 25 23 21 20 17 16 24 18 19 22 currentsense vars: currentsense_sense='resistor' currentsense_fettype='nmos_drain' currentsense_limit='no' currentsense_usage='highside' currentsense_limitblanking_adjust='fixed' currentsense_limitblanking_name='text' currentsense_limitblanking_description='text' currentsense_senseblanking_adjust='fixed' currentsense_senseblanking_name='text' currentsense_senseblanking_description='text' currentsense_replica_direction='sink' currentsense_dft='no' currentsense_accuracy='no' currentsense_trim_name='text' currentsense_trim_description='text' currentsense_resz=10m currentsense_restc=0 currentsense_replicavmax=30 currentsense_limitblanking=5 currentsense_senseblanking=5 currentsense_1=0 currentsense_replicaimax=200 currentsense_vmax=6
X$U2 27 pinprobe vars: pinprobe_description='HV' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U3 28 pinprobe vars: pinprobe_description='HVREF' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U4 29 pinprobe vars: pinprobe_description='REPLICA' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U5 30 pinprobe vars: pinprobe_description='SENSE' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U6 31 pinprobe vars: pinprobe_description='EN' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U7 32 pinprobe vars: pinprobe_description='RTN' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U8 26 pinprobe vars: pinprobe_description='OUT' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
.ends FETcurrentSENSE

** From Z:\celera\projects\Simplis\playbrian\trials\verification\FORCE_FETcurrentSENSE.sxcmp


.end
